US05112920
N-Acetyl-N,N',N'-trimethylethylenediamine intermediate was prepared in the following manner. N,N,N'-Trimethylethylenediamine (24.5 g, 0.24 mol) was added to acetic anhydride (38 mL, 0.40 mol) over 1.5 hours with cooling in an ice-water bath. After stirring another 22 hours at ambient temperature, the reaction mixture was diluted with 50 mL of ether and 25 mL of water, and then cooled in an ice-water bath. A solution of 25 percent aqueous NaOH was added until the pH was approximately 10 and the phases were separated. The aqueous phase was extracted two more times with ether and the combined organic phase was concentrated on the rotary evaporator (50°,>100 mm Hg). Yield=2.4 g. The aqueous phase was saturated with NaCl and extracted again with methylene chloride (3×25 mL). After evaporation, it gave a total of 33.4 g of yellow liquid. Distillation through a 1×8 cm Vigreux column afforded 23.53 g of colorless liquid, bp 90°-1°/7 mm Hg (68 percent yield).

reactant | N,N,N'-Trimethylethylenediamine | 0.24 mol, 24.5 g | CN(CCNC)C | C5H14N2
reactant | acetic anhydride | 0.40 mol, 38 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | NaOH | [OH-].[Na+]
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | water | 25 mL | O | H2O
product | N-Acetyl-N,N',N'-trimethylethylenediamine | C(C)(=O)N(CCN(C)C)C | C7H16N2O
